US05053548
A solution was prepared by dissolving 0.10 g of 5'-acetyl-3,3'-diallyl-5-ethyl-2,4'-biphenyldiol into 2 ml of 40% metanol solution of methylamine. The solution was reflexed by heating for 3 hours, cooled, 0.2 g of sodium boron hydride was added thereinto, was reflexed by heating. The solution was added 0.2 g of sodium boron hydride and stirred from 1 hour at room temperature. The reaction mixture, wherein an excess of reagent was decomposed with hydrochloric acid, was neutralized with water solution of sodium hydrogencarbonate and extracted with diethylether. The extract was washed with an aqueous solution saturated with NaCl, dried with sodium sulfate and concentrated. The concentrate was purified by silica gel column-chromatography (dichloroethane:methanol=50:1) to yield 80 mg of 3,3'-diallyl-5-ethyl-5'-(1-methylaminoethyl)-2,4'-biphenyldiol.

reactant | 5'-acetyl-3,3'-diallyl-5-ethyl-2,4'-biphenyldiol | 0.10 g | C(C)(=O)C=1C(=C(C=C(C1)C=1C(=C(C=C(C1)CC)CC=C)O)CC=C)O | C22H24O3
reactant | methylamine | CN | CH5N
reactant | sodium boron hydride | 0.2 g | B.[Na]
reactant | sodium boron hydride | 0.2 g | B.[Na]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | metanol | 2 ml | CO | CH4O
product | 3,3'-diallyl-5-ethyl-5'-(1-methylaminoethyl)-2,4'-biphenyldiol | 80 mg | C(C=C)C1=C(C(=CC(=C1)CC)C1=CC(=C(C(=C1)C(C)NC)O)CC=C)O | C23H29NO2
